US04382939
3-[2-(Diethylamino)propyl]-1,2,3,4-tetrahydro-8,9-diethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one dihydrochloride
Prepared by the method described in Example 37 from 3-[2-(diethylamino)propyl]-1,2,3,4-tetrahydro-8,9-dihydroxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one dihydrobromide (17.0 g, 0.034 moles), potassium carbonate (27.6 g, 0.20 moles), and diethyl sulfate (20.0 g, 0.13 moles). The crude free base product is converted to the dihydrochloride in absolute ethanol. A second recrystallization from ethanol yielded the final product (1.8 g), mp 148°-152° C.

reactant | 3-[2-(diethylamino)propyl]-1,2,3,4-tetrahydro-8,9-dihydroxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one dihydrobromide | 0.034 moles, 17.0 g | Br.Br.C(C)N(C(CN1CC2=C(CC1)C1=C(OC2=O)C=C(C(=C1)O)O)C)CC
reactant | potassium carbonate | 0.20 moles, 27.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl sulfate | 0.13 moles, 20.0 g | S(=O)(=O)(OCC)OCC | C4H10O4S
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
solvent | ethanol | C(C)O | C2H6O
product | 3-[2-(Diethylamino)propyl]-1,2,3,4-tetrahydro-8,9-diethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one dihydrochloride | 1.8 g | Cl.Cl.C(C)N(C(CN1CC2=C(CC1)C1=C(OC2=O)C=C(C(=C1)OCC)OCC)C)CC | InChI=1S/C23H34N2O4.2ClH/c1-6-25(7-2)16(5)14-24-11-10-17-18-12-21(27-8-3)22(28-9-4)13-20(18)29-23(26)19(17)15-24;;/h12-13,16H,6-11,14-15H2,1-5H3;2*1H
